US09034866B2
Synthesis of (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-3-(trifluoromethyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, racemic 9-bromo-4-fluoro-3-(trifluoromethyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give the titled compound as a white solid 8.9 mg (59%).

reactant | racemic 9-bromo-4-fluoro-3-(trifluoromethyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | BrC1=CC2=C(OCC(C=3N2N=C(C3C(F)(F)F)C(=O)N)F)C=C1 | C13H8BrF4N3O2
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
product | (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-3-(trifluoromethyl)-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 8.9 mg, 59% | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(OCCC=3N2N=C(C3C(F)(F)F)C(=O)N)C=C1 | C20H17F3N4O4
